US07217724B2
A solution of N,N-diethyl-2-(3-{(2R)-2-[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethylamino]propyl}-1H-indol-7-yloxy) acetamide (12 mg, 0.027 mmol) and potassium hydroxide (60 mg, 1.1 mmol) in water (0.5 mL) and ethanol (0.5 mL) is stirred at 60° C. for 6 hours. After cooling, the mixture is concentrated and acidified by addition of water (30 mL) and acetic acid. The resultant is purified by reversed phase column chromatography (COSMOSIL 75C18-OPN (Nacalai Tesque) (octadecyl-silica gel, particle diameter: 75 μm, hereinafter, the same), water→water/methanol=10/ 1) to give the desired (3-{(2R)-2-[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethylamino]propyl}-1H-indol-7-yloxy)acetic acid (7 mg, yield: 68%).

reactant | N,N-diethyl-2-(3-{(2R)-2-[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethylamino]propyl}-1H-indol-7-yloxy) acetamide | 0.027 mmol, 12 mg | C(C)N(C(COC=1C=CC=C2C(=CNC12)C[C@@H](C)NC[C@@H](C1=CC=C(C=C1)O)O)=O)CC | C25H33N3O4
reactant | potassium hydroxide | 1.1 mmol, 60 mg | [OH-].[K+]
solvent | water | 0.5 mL | O | H2O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | (3-{(2R)-2-[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethylamino]propyl}-1H-indol-7-yloxy)acetic acid | 7 mg, yield: 68% | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)O)C)C1=CC=C(C=C1)O | C21H24N2O5
